US04851418
7-[3-[(2-Amino-1-oxopropyl)amino]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, monohydrochloride
A solution of 2.3 g of (4.4 mmol) of 1-Cyclopropyl-7-[3-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-1-oxopropyl]amino]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid in a mixture of 25 ml of 1.0M hydrochloric acid and 25 ml of ethanol was heated at reflux for two hours. The mixture was evaporated to dryness in vacuo and the residue was triturated with ethanol/ether (100 ml/1:1). The solid was removed by filtration, washed with ethanol/ether, ether and dried in vacuo to give 1.6 g of the title compound, mp 238°-240°.

reactant | 1-Cyclopropyl-7-[3-[[2-[[(1,1-dimethylethoxy)carbonyl]amino]-1-oxopropyl]amino]-1-pyrrolidinyl]-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.4 mmol, 2.3 g | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)F)N1CC(CC1)NC(C(C)NC(=O)OC(C)(C)C)=O)F)=O)C(=O)O | C25H30F2N4O6
reactant | hydrochloric acid | 1.0M, 25 ml | Cl | ClH
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 7-[3-[(2-Amino-1-oxopropyl)amino]-1-pyrrolidinyl]-1-cyclopropyl-6,8-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid, monohydrochloride | 1.6 g | Cl.NC(C(=O)NC1CN(CC1)C1=C(C=C2C(C(=CN(C2=C1F)C1CC1)C(=O)O)=O)F)C | InChI=1S/C20H22F2N4O4.ClH/c1-9(23)19(28)24-10-4-5-25(7-10)17-14(21)6-12-16(15(17)22)26(11-2-3-11)8-13(18(12)27)20(29)30;/h6,8-11H,2-5,7,23H2,1H3,(H,24,28)(H,29,30);1H
